US04853469
Preparation of ethyl 7,8,9-trifluoro-1-hydroxymethyl-5-oxo-5H-thiazolo[3,2-a]quinoline-4-carboxylate [compound (III) in which R is ethyl]
Ethyl 2-(3-acetoxy-2-oxopropylthio)-6,7,8-trifluoro-4-hydroxyquinoline-3-carboxylate (3.54 g) was added to concd. sulfuric acid (35 ml) and the mixture was stirred at room temperature for 2 hours and 15 minutes. Thereto water (29 ml) was added gradually with ice-cooling and the mixture was stirred at room temperature for 26 hours, followed by addition of ice-water (400 ml). After precipitated crystal was filtered and washed with water, the resultant was recrystallized from a mixed solvent of chloroform-ethanol to give the title compound (2.38 g) as pale yellow crystals.

reactant | Ethyl 2-(3-acetoxy-2-oxopropylthio)-6,7,8-trifluoro-4-hydroxyquinoline-3-carboxylate | 3.54 g | C(C)(=O)OCC(CSC1=NC2=C(C(=C(C=C2C(=C1C(=O)OCC)O)F)F)F)=O | C17H14F3NO6S
reactant | sulfuric acid | 35 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 29 ml | O | H2O
product | ethyl 7,8,9-trifluoro-1-hydroxymethyl-5-oxo-5H-thiazolo[3,2-a]quinoline-4-carboxylate | 2.38 g | FC=1C=C2C(C(=C3N(C2=C(C1F)F)C(=CS3)CO)C(=O)OCC)=O | C15H10F3NO4S
